US04416683
2,6-Dimethoxybenzoyl chloride was reacted with 3-amino-1H-1,2,4-triazole according to the procedure of Example 118 to provide N-(1H-1,2,4-triazol-3-yl)-2,6-dimethoxybenzamide.

reactant | 2,6-Dimethoxybenzoyl chloride | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
reactant | 3-amino-1H-1,2,4-triazole | NC1=NNC=N1 | C2H4N4
product | N-(1H-1,2,4-triazol-3-yl)-2,6-dimethoxybenzamide | N1N=C(N=C1)NC(C1=C(C=CC=C1OC)OC)=O | C11H12N4O3
